US07915271B2
To a stirred solution of 4-(2-fluoro-4-methoxyphenyl)piperidine (40 mg; 0.19 mmol) in DMF (1 mL) under an atmosphere of N2 was added N,N-diisopropylethylamine (33 μL; 0.19 mmol), followed by ethyl bromoacetate (21 μL; 0.19 mmol). The resultant solution was stirred at room temperature for 2.5 h. The reaction was partitioned between EtOAc (10 mL) and H2O (10 mL). The aqueous layer was extracted with EtOAc (3×10 mL) and the combined extracts were washed with brine (10 mL), dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by flash silica gel chromatography (0-25% EtOAc/hexanes gradient) to afford ethyl [4-(2-fluoro-4-methoxyphenyl)piperidin-1-yl]acetate as a colorless oil. LCMS=295.9 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 7.14 (t, J=8.7 Hz, 1H), 6.65 (dd, J=8.5, 2.5 Hz, 1H), 6.58 (dd, J=12.43, 2.5 Hz, 1H), 4.20 (q, J=7.1 Hz, 2H), 3.77 (s, 3H), 3.26 (s, 2H), 3.06 (d, J=11.4 Hz, 2H), 2.80 (tt, J=12.1, 3.7 Hz, 1H), 2.32 (t, J=11.2 Hz, 2H), 1.87 (qd, J=12.3, 3.3 Hz, 2H), 1.78 (d, J=12.1 Hz, 2H), 1.29 (t, J=7.1 Hz, 3H).

reactant | 4-(2-fluoro-4-methoxyphenyl)piperidine | 0.19 mmol, 40 mg | FC1=C(C=CC(=C1)OC)C1CCNCC1 | C12H16FNO
reactant | N,N-diisopropylethylamine | 0.19 mmol, 33 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl bromoacetate | 0.19 mmol, 21 μL | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | ethyl [4-(2-fluoro-4-methoxyphenyl)piperidin-1-yl]acetate | FC1=C(C=CC(=C1)OC)C1CCN(CC1)CC(=O)OCC | C16H22FNO3
